US09102614B2
Preparation of ethyl 2-tert-butoxy-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate:
A solution of ethyl 2-hydroxy-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate (622 mg, 2.39 mmol) in tert-butyl acetate (12 mL) was treated with 70% HClO4 (20 μL) at 23° C.). After 3 h, the reaction was added slowly over 5 min to saturated NaHCO3 (25 mL). The resulting system was extracted with DCM (3×15 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated. Hexane (10 mL) was added, and the mixture was concentrated again. The residue was dissolved in benzene. The solution was wet-loaded onto a 24 g “gold” ISCO silica gel column and purified by flash chromatography (hexane→ethyl acetate) giving the desired product (286 mg, 38% yield). 1H NMR (400 MHz, CDCl3) δ 9.00 (s, 1H), 8.26 (d, J=8.2 Hz, 1H), 7.65 (d, J=8.8 Hz, 1H), 7.44 (dd, J=8.2, 8.0 Hz, 1H), 7/39 (dd, J=8.8, 8.0 Hz, 1H), 7.17 (s, 1H), 5.52 (s, 1H), 4.25-4.06 (m, 2H), 2.59 (s, 3H), 1.33 (s, 9H), 1.20 (t, J=7.0 Hz, 3H).

reactant | ethyl 2-hydroxy-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate | 2.39 mmol, 622 mg | OC(C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)O | C15H16O4
reactant | perchloric acid | 20 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | tert-butyl acetate | 12 mL | C(C)(=O)OC(C)(C)C | C6H12O2
product | ethyl 2-tert-butoxy-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate | 286 mg, 38% yield | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)O | C19H24O4
